US09168245B2
Synthesis of intermediate II-l: 4-Methoxymethyl-1-methyl-2-nitro-benzene
To a solution of NaOMe (1.6 g, 29.63 mmol) in dry MeOH (40 mL) under inert atmosphere was added 4-chloromethyl-1-methyl-2-nitro-benzene (5.0 g, 26.94 mmol). The reaction mixture was stirred at room temperature for 16 h. Water was added and EtOH was removed under reduced pressure. The crude product was extracted with DCM (2 times) and the organic layer was washed with water, then with a saturated solution of NaCl, dried over MgSO4 and concentrated to give intermediate II-l as yellow oil. 1H NMR (300 MHz, CDCl3) δ 7.94 (s, 1H), 7.47 (d, J=7.8 Hz, 1H), 7.32 (d, J=7.8 Hz, 1H), 4.48 (s, 2H), 3.41 (s, 3H), 2.58 (s, 3H).

reactant | NaOMe | 29.63 mmol, 1.6 g | C[O-].[Na+]
reactant | 4-chloromethyl-1-methyl-2-nitro-benzene | 26.94 mmol, 5.0 g | ClCC1=CC(=C(C=C1)C)[N+](=O)[O-] | C8H8ClNO2
reactant | Water | O | H2O
solvent | MeOH | 40 mL | CO | CH4O
product | 4-Methoxymethyl-1-methyl-2-nitro-benzene | COCC1=CC(=C(C=C1)C)[N+](=O)[O-] | C9H11NO3
